US04055409
3-(2-Carboxyphenyl)-5-(4-methoxyphenyl)pyrazole
A mixture of 2 -(4-methoxyphenyl)-8H-pyrazolo[5,1-a]isoindol-8-one (100 mg), water (5 ml) and methanol (5ml) was stirred for one hour with sodium hydroxide (0.5 g). Within 5 minutes, a colorless solution has been produced. The mixture was then acidified to pH 3 with concentrated hydrochloric acid, cooled to 0° and filtered. The colorless crystalline residue was rinsed with water and air-dried. It was recrystallized from 33% aqueous ethanol (15 ml), recovery 80.7 mg (79%) of colorless crystals, mp 223°-225° dec, of 3-(2-carboxyphenyl)-5-(4-methoxyphenyl)pyrazole.

reactant | 2 -(4-methoxyphenyl)-8H-pyrazolo[5,1-a]isoindol-8-one | 100 mg | COC1=CC=C(C=C1)C1=NN2C(C=3C=CC=CC3C2=O)=C1 | C17H12N2O2
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5ml | CO | CH4O
product | 3-(2-Carboxyphenyl)-5-(4-methoxyphenyl)pyrazole | C(=O)(O)C1=C(C=CC=C1)C1=NNC(=C1)C1=CC=C(C=C1)OC | C17H14N2O3
